US07192968B2
(1S,2R,4S)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-(N-ethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride
(1S,2R,4S)-4-Carboxy-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine (150 mg) was dissolved in N,N-dimethylformamide (3 ml), to which N-ethylamine hydrochloride (119 mg), 1-hydroxybenzotriazole monohydrate (79 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (112 mg) and triethylamine (326 μl) were added, and the mixture was stirred at room temperature for 4 days. The solvent was distilled off under reduced pressure, and a saturated aqueous solution of sodium hydrogencarbonate was added to the residue to conduct extraction with dichloromethane. The resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resultant residue was purified by flash column chromatography on silica gel (dichloromethane:methanol=47:3). The thus-obtained white solid was dissolved in dichloromethane, to which 1N ethanol solution (171 μl) of hydrochloric acid was added. The solvent was distilled off under reduced pressure, and methanol and diethyl ether were added to the residue to collect precipitate formed by filtration, thereby obtaining the title compound (74 mg) as white solid.

reactant | (1S,2R,4S)-4-Carboxy-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | 150 mg | C(=O)(O)[C@@H]1C[C@H]([C@H](CC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)NC(=O)C=1SC=2CN(CCC2N1)C | C24H26ClN5O4S
reactant | N-ethylamine hydrochloride | 119 mg | Cl.C(C)N
reactant | 1-hydroxybenzotriazole monohydrate | 79 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 112 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 326 μl | C(C)N(CC)CC | C6H15N
product | (1S,2R,4S)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-(N-ethylcarbamoyl)-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine hydrochloride | 74 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@@H]1[C@@H](C[C@H](CC1)C(NCC)=O)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C26H31ClN6O3S.ClH/c1-3-28-23(34)14-4-6-18(30-24(35)21-12-15-10-16(27)5-7-17(15)29-21)20(11-14)31-25(36)26-32-19-8-9-33(2)13-22(19)37-26;/h5,7,10,12,14,18,20,29H,3-4,6,8-9,11,13H2,1-2H3,(H,28,34)(H,30,35)(H,31,36);1H/t14-,18-,20+;/m0./s1
